US04569942
N-Isopropyl-2-oxindole-1-carboxamide
To a stirred suspension of 5.0 g (37.6 mmole) of 2-oxindole in 50 ml of toluene was added 8.0 g (94.0 mmole) of isopropyl isocyanate, and the mixture was heated under reflux for 6 hours. The reaction mixture was allowed to cool and then it was stirred at room temperature overnight. The solvent was removed by evaporation in vacuo, and the residue was dissolved in hot cyclohexane. The solution was allowed to cool and the solid was collected by filtration, giving 7.0 g of the title compound, mp 84°-85.5° C., as pink crystals.

reactant | 2-oxindole | 37.6 mmole, 5.0 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | isopropyl isocyanate | 94.0 mmole, 8.0 g | C(C)(C)N=C=O | C4H7NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | N-Isopropyl-2-oxindole-1-carboxamide | 7.0 g | C(C)(C)NC(=O)N1C(CC2=CC=CC=C12)=O | C12H14N2O2
